US07361763B2
To a Personal Chemistry® microwave vial (2-5 ml size) were added 5-bromo-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (96 mg, 0.32 mmol), 1-N-(BOC)pyrrole-2-boronic acid (103 mg, 0.487 mmol) and 12 mg (5 mol %) of dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct, 1 ml of acetonitrile and 1 ml of a 2 M aqueous solution of sodium carbonate. The vial was sealed, evacuated and purged three times with nitrogen, then irradiated in a Personal Chemistry® microwave reactor with a temperature setting of 150° C. for 15 minutes. Ethyl acetate (50 ml) was added, and the layers were separated. The aqueous fraction was extracted three times with ethyl acetate, and the combined organic fractions were washed with brine, dried (Na2SO4), filtered and concentrated. Purification by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes gave 28.1 mg (30%) of 3-(2-methoxy-phenyl)-5-(1H-pyrrol-2-yl)-1H-pyrrolo[2,3-b]pyridine as a tan solid. 1H-NMR (d6-DMSO) δ=11.78 (br.s, 1H), 11.32 (br. s, 1H), 8.56 (d, 1H), 8.20 (d, 1H), 7.66 (d, 1H), 7.59 (dd, 1H), 7.29 (dd, 1H), 7.12 (d, 1H), 7.07 (t, 1H), 6.83 (m, 1H), 6.49 (m, 1H), 6.10 (m, 1H), 3.82 (s, 3H); MS m/z: 290 [MH]+.

reactant | 5-bromo-3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.32 mmol, 96 mg | BrC=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C14H11BrN2O
reactant | 1-N-(BOC)pyrrole-2-boronic acid | 0.487 mmol, 103 mg | C(=O)(OC(C)(C)C)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 12 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 3-(2-methoxy-phenyl)-5-(1H-pyrrol-2-yl)-1H-pyrrolo[2,3-b]pyridine | 28.1 mg, 30% | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C=2NC=CC2 | C18H15N3O
